Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
prostatic regrowth and 1cm bladder stone.
 
Major Surgical or Invasive Procedure:
cystolithalopaxy and transurethral resection of prostate.

 
History of Present Illness:
___ Hx BPH s/p laser TURP, now wit prostatic regrowth and 1cm 
bladder stone.
 
Past Medical History:
PMH:
  Dyspepsia 
  Depressive disorder 
  Hypercholesterolemia 
  COLORECTAL POLYPS 
  History of actinic keratosis 
  History of squamous cell carcinoma of skin 
 DM (diabetes mellitus), type 1 
  ARTHRALGIA - KNEE 
  History of tobacco use 
  Insulin pump in place 
  Thyroid function study abnormality 
  Osteochondritis dissecans of knee 
  Mass of breast, right 
  Gross hematuria 
  Essential hypertension, benign 
  Multiple thyroid nodules 
  Thyroid nodule 
  Type 1 diabetes with renal manifestations, controlled 
  Albuminuria 
  Type 1 diabetes with renal manifestations, controlled 
 Type 1 diabetes mellitus with microalbuminuria 
  Insomnia 

 
Social History:
___
Family History:
Father  AAA [OTHER]; heart disorder 
Mother  ___ Onset 

 
Physical Exam:
WDWN, NAD, AVSS
Abdomen soft, non-distended 
Bilateral lower extremities w/out edema, pitting or pain to deep 
palpation of calves
 
Pertinent Results:
___ 06:05AM BLOOD WBC-8.3 RBC-3.83* Hgb-12.0* Hct-36.8* 
MCV-96 MCH-31.3 MCHC-32.6 RDW-12.8 RDWSD-45.7 Plt ___
___ 06:05AM BLOOD Glucose-41* UreaN-15 Creat-0.9 Na-138 
K-4.0 Cl-100 HCO3-29 AnGap-13
 
Brief Hospital Course:
Mr. ___ was admitted to Urology service after bipolar 
transurethral resection of prostate and bladder stone removal. 
No concerning intraoperative events occurred; please see 
dictated operative note for details. The patient received 
___ antibiotic prophylaxis. The patient's 
postoperative course was uncomplicated. He received intravenous 
antibiotics and continuous bladder irrigation overnight. On POD1 
the CBI was discontinued and Foley catheter was removed with an 
active vodiding trial.  Post void residuals were checked. His 
urine was clear-pink and and without clots. He remained 
a-febrile throughout his hospital stay.  At discharge, the 
patient had pain well controlled with oral pain medications, was 
tolerating regular diet, ambulating without assistance, and 
voiding without difficulty.  He was given pyridium and oral pain 
medications along with explicit instructions to follow up in 
clinic.

 
Medications on Admission:
The patient's OMR Medication list (as of ___: 
   amitriptyline 
amitriptyline 50 mg tablet 
1 tablet(s) by mouth every night 
 (Prescribed by Other Provider)  
   atorvastatin 
atorvastatin 20 mg tablet 
1 tablet(s) by mouth once a day 
 (Prescribed by Other Provider)  
   insulin aspart [Novolog] 
Novolog 100 unit/mL subcutaneous solution 
 insulin pump 
 (Prescribed by Other Provider)  
   lisinopril 
lisinopril 5 mg tablet 
1 tablet(s) by mouth once a day 
 (Prescribed by Other Provider)  
   tamsulosin 
tamsulosin 0.4 mg capsule 
1 capsule(s) by mouth twice a day 
 (Prescribed by Other Provider)  
   aspirin [Adult Low Dose Aspirin] 
Adult Low Dose Aspirin 81 mg tablet,delayed release 
1 tablet(s) by mouth once a day 
 (Prescribed by Other Provider)  
 
a  This medication list has been confirmed with the patient  

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg ONE capsule(s) by mouth 
twice a day Disp #*60 Capsule Refills:*0 
2.  OxyCODONE (Immediate Release) 2.5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 2.5 tablet(s) by mouth Q4hrs Disp #*10 Tablet 
Refills:*0 
3.  Phenazopyridine 100 mg PO TID dysuria Duration: 3 Days 
RX *phenazopyridine [Pyridium] 100 mg ONE tablet(s) by mouth 
Q8hrs Disp #*9 Tablet Refills:*0 
4.  Insulin  Pump SC (Self Administering Medication)Insulin 
Aspart (Novolog) (non-formulary)
Target glucose: 80-180
 
5.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
6.  Amitriptyline 50 mg PO QHS  
7.  Aspirin EC 81 mg PO DAILY 
RESUME WHEN URINE CLEAR OR YELLOW FOR THREE DAYS   
8.  Atorvastatin 20 mg PO QPM  
9.  Lisinopril 5 mg PO DAILY  
10.  Tamsulosin 0.4 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
  Benign prostatic hypertrophy w/ lower urinary tract symptoms, 
bladder stone

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
These steps can help you recover after your procedure. 
•DO drink plenty of water to flush out the bladder. 
•DO avoid straining during a bowel movement. Eat 
fiber-containing foods and avoid foods that can cause 
constipation. Ask your doctor if you should take a laxative if 
you do become constipated. 
•Don't take blood-thinning medications until your doctor says 
it's OK. 
•Don't do any strenuous activity, such as heavy lifting, for 
four to six weeks or until your doctor says it's OK. 
•Don't have sex. You'll likely be able to resume sexual 
activity in about four to six weeks. 
•Don't drive until your doctor says it's OK. ___, you can 
drive once your catheter is removed and you're no longer taking 
prescription pain medications. 

•You may continue to periodically see small amounts of blood in 
your urine--this is normal and will gradually improve. You may 
have clear or yellow urine that periodically turns pink/red 
throughout the healing process. Generally, the discoloration of 
the urine is “OK” unless it transitions from ___, 
___ Aid to a very dark, thick or “like tomato juice” 
color

•Resume your pre-admission/home medications EXCEPT as noted. 
You should ALWAYS call to inform, review and discuss any 
medication changes and your post-operative course with your 
primary care team.  

•Unless otherwise advised, blood thinning medications like 
ASPIRIN should be held until the urine has been clear/yellow for 
at least three days.  Your medication reconciliation will note 
if you may resume aspirin or prescription blood thinners (like 
Coumadin (warfarin), Xarelto, Lovenox, etc.)

•If needed, you will be prescribed an antibiotic to continue 
after discharge or save until your Foley catheter is removed 
(called a “trial of void” or “void trial”).  

•You may be discharged home with a medication called PYRIDIUM 
that will help with the "burning" pain you may experience when 
voiding. This medication may turn your urine bright orange.

•Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication. 
Discontinue if loose stool or diarrhea develops. Colace is a 
stool softener, NOT a laxative, and it is available 
over-the-counter 

•AVOID STRAINING for bowel movements as this may stir up 
bleeding.  Avoid  constipating foods for ___ weeks, and drink 
plenty of fluids to keep hydrated

•No vigorous physical activity or sports for 4 weeks or until 
otherwise advised

•Do not lift anything heavier than a phone book (10 pounds) or 
participate in high intensity physical activity (which includes 
intercourse) for a minimum of four weeks or until you are 
cleared by your Urologist in follow-up

•Acetaminophen (Tylenol) should be your first-line pain 
medication. A narcotic pain medication may also be prescribed 
for breakthrough or moderate pain.  

•The maximum daily Tylenol/Acetaminophen dose is 3 grams from 
ALL sources. 

•Do not drive or drink alcohol while taking narcotics and do 
not operate dangerous machinery.  

WHEN YOU ARE DISCHARGED WITH A FOLEY CATHETER:
o-Please also reference the nursing handout and instructions on 
routine care and hygiene

o-Your Foley should be secured to the catheter secure on your 
thigh at ALL times until your follow up with the surgeon.

o-DO NOT allow anyone outside your urologist/team 
representative remove your Foley for any reason.

o-Wear Large Foley bag for majority of time. The leg bag (if 
provided)  is for short-duration periods and the bag must be 
emptied frequently.

o-Do NOT drive if you have a Foley in place (for your 
safety-but of course you may be a passenger

 
Followup Instructions:
___